US05037827
(1) Synthesis of 4-stearoylpiperazine
20 g of anhydrous piperazine was dissolved in 1,000 ml of tetrahydrofuran and then 33.6 g of stearoyl chloride was added dropwise thereto under stirring and under cooling with ice. The mixture was stirred under cooling with ice for 1 h and tetrahydrofuran was distilled off under reduced pressure. A saturated aqueous solution of sodium hydrogencarbonate was added to the residue. After extraction with 200 ml of chloroform three times, the extract was washed with a saturated aqueous solution of common salt and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluent: chloroform/methanol=9/1) to obtain 5.1 g of the intended product.

reactant | piperazine | 20 g | N1CCNCC1 | C4H10N2
reactant | stearoyl chloride | 33.6 g | C(CCCCCCCCCCCCCCCCC)(=O)Cl | C18H35ClO
solvent | tetrahydrofuran | 1,000 ml | O1CCCC1 | C4H8O
product | 4-stearoylpiperazine | 5.1 g | C(CCCCCCCCCCCCCCCCC)(=O)N1CCNCC1 | C22H44N2O
